US05262420
Preparation of 1-phenyl-4-(4-pyridyl)-pentane
1.0 g (9.35 mmol) of 4-ethylpyridine and 1.86 g (9.35 mmol) of 1-bromo-3-phenylpropane were reacted in the same manner as in Example 26. The reaction product was purified to obtain 1.17 g of the desired compound (yield: 55.5%).

reactant | 4-ethylpyridine | 9.35 mmol, 1.0 g | C(C)C1=CC=NC=C1 | C7H9N
reactant | 1-bromo-3-phenylpropane | 9.35 mmol, 1.86 g | BrCCCC1=CC=CC=C1 | C9H11Br
product | 1-phenyl-4-(4-pyridyl)-pentane | 1.17 g, yield: 55.5% | C1(=CC=CC=C1)CCCC(C)C1=CC=NC=C1 | C16H19N
